US04652646
6.0 g of 2-(4-tert-butylphenyl)-7-hydroxy-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one was added to a mixture of 25 ml of phosphorus oxychloride and 4 ml of diethylaniline, and the resulting mixture was heated at a temperature of 70° to 80° C. for 2 hours. After cooling, the precipitate formed was filtered, washed successively with water, isopropanol and diethyl ether to obtain 4.3 g of 2-(4-tert-butylphenyl)-7-chloro-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one as crystals having a melting point of 245° to 248° C.

reactant | 2-(4-tert-butylphenyl)-7-hydroxy-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one | 6.0 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NN2C(=NC(=C(C2=O)[N+](=O)[O-])O)S1 | C15H14N4O4S
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diethylaniline | 4 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
product | 2-(4-tert-butylphenyl)-7-chloro-6-nitro-5H-[1,3,4]thiadiazolo[3,2-a]pyrimidin-5-one | 4.3 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NN2C(=NC(=C(C2=O)[N+](=O)[O-])Cl)S1 | C15H13ClN4O3S
